US04232009
(13E)-(5RS,6RS,9α,11α,15S,16RS)-5-Iodo-6,9-epoxy-11,15-dihydroxy-16-methyl-20-chloroprost-13-enoic acid methyl ester
Under an atmosphere of nitrogen, 194 mg of anhydrous potassium carbonate was added to a solution of 140 mg of (5Z,13E)-(9α,11α,15S,16RS)-9,11,15-trihydroxy-16-methyl-20-chloroprosta-5,13-dienoic acid methyl ester [prepared as described in Example 8 of British Patent Application No. 22090/75 and e.g. the equivalent Belgian Specification No. 842,113] in 5 ml of methylene chloride. To the reaction mixture was added 200 mg of iodine in portions during 2 hours with stirring at 0° C. The reaction mixture was diluted with diethyl ether, washed with an aqueous solution of sodium thiosulphate, water and an aqueous solution of sodium chloride, dried over anhydrous magnesium sulphate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel using a mixture of cyclohexane and ethyl acetate (2:1) as eluent to give 135 mg of the title compound having the following physical characteristics:

reactant | potassium carbonate | 194 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (5Z,13E)-(9α,11α,15S,16RS)-9,11,15-trihydroxy-16-methyl-20-chloroprosta-5,13-dienoic acid methyl ester | 140 mg | COC(CCC\C=C/C[C@H]1[C@H](C[C@H]([C@@H]1\C=C\[C@H](C(CCCCCl)C)O)O)O)=O | C22H37ClO5
reactant | iodine | 200 mg | II | I2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | (13E)-(5RS,6RS,9α,11α,15S,16RS)-5-Iodo-6,9-epoxy-11,15-dihydroxy-16-methyl-20-chloroprost-13-enoic acid methyl ester | 135 mg | COC(CCCC(C1C[C@H]2[C@H](C[C@H]([C@@H]2\C=C\[C@H](C(CCCCCl)C)O)O)O1)I)=O | C22H36ClIO5
